US05721234
5-Amino-6-bromo-4-nitro-2-piperidin-1-yl-indane
A mixture of 2,5-diamino-6-bromo-4-nitroindane hydrochloride (1.5 g, 5 mmol), 1,5-dibromopentane (1.4 g, 6 mmol) and diisopropylethylamine (1.3 g, 10 mmol) in DMF (100 mL) was heated at 50° C. for 24 h. The solvent was evaporated and the residue taken up in methylene chloride:water. The aqueous layer was basified with 2N NaOH and back extracted. The combined organic layers were dried over sodium sulfate, filtered and evaporated to give a syrup. The purified product (0.8 g) was obtained from column chromatography (4:1 EtOAc:methanol).

reactant | 2,5-diamino-6-bromo-4-nitroindane hydrochloride | 5 mmol, 1.5 g | Cl.NC1CC2=CC(=C(C(=C2C1)[N+](=O)[O-])N)Br
reactant | 1,5-dibromopentane | 6 mmol, 1.4 g | BrCCCCCBr | C5H10Br2
reactant | diisopropylethylamine | 10 mmol, 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 5-Amino-6-bromo-4-nitro-2-piperidin-1-yl-indane | 0.8 g | NC=1C(=C2CC(CC2=CC1Br)N1CCCCC1)[N+](=O)[O-] | C14H18BrN3O2
